US07713993B2
Synthesis of 4-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-3-methyl-1H-imidazole
Sodium borohydride (containing mineral oil at 60%, 8 mg) was added to a solution of 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole (50 mg) in THF (5 mL), and the reaction solution was stirred at room temperature for one hour. Methyl iodide (23 mg) was added to the reaction solution, and the reaction solution was stirred at room temperature for 12 hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 15 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium borohydride | 8 mg | [BH4-].[Na+]
reactant | 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole | 50 mg | FC1=CC=C(C=C1)C1=CN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C22H19FN4O
reactant | Methyl iodide | 23 mg | CI | CH3I
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-3-methyl-1H-imidazole | 15 mg | FC1=CC=C(C=C1)C=1N(C(NC1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C | C23H23FN4O
